US08664220B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[trans-1-(2-phenyl-cyclopropyl)-ethyl]-amine
Prepared according to the procedure described in Example 1, Step 12, using 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine and trans-1-(2-phenyl-cyclopropyl)-ethanone.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | trans-1-(2-phenyl-cyclopropyl)-ethanone | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(C)=O | C11H12O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[trans-1-(2-phenyl-cyclopropyl)-ethyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C21H21BrN2O
